US04563474
18.2 g (150 millimoles) of 2-cyano-4-chlorobut-2-ene were slowly added dropwise to 20.0 g (100 millimoles) of sodium saccharin in 100 ml of absolute dimethylformamide, while stirring thoroughly. The reaction mixture was stirred for a further 4 hours at 40° C., after which the precipitated sodium chloride was filtered off and the filtrate was evaporated down under reduced pressure to about 30 ml. After 400 ml of water had been added, the oil initially formed slowly crystallized. The crystals were filtered off under suction, recrystallized from ethanol and dried in a drying oven under reduced pressure at 50° C. to give 17.4 g (66%) of 4-(2,3-dihydro-1,1-dioxido-3-oxo-1,2-benzisothiazol-2-yl)-2-cyanobut-2-ene of melting point 107°-108° C.

reactant | 2-cyano-4-chlorobut-2-ene | 150 millimoles, 18.2 g | C(#N)C(C)=CCCl | C5H6ClN
reactant | sodium saccharin | 100 millimoles, 20.0 g | S1(=O)(=O)NC(=O)C2=CC=CC=C12.[Na]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 4-(2,3-dihydro-1,1-dioxido-3-oxo-1,2-benzisothiazol-2-yl)-2-cyanobut-2-ene | 17.4 g, 66% | O=S1(N(C(C2=C1C=CC=C2)=O)CC=C(C)C#N)=O | C12H10N2O3S
